US07704995B2
3-amino-6-phenyl-N-(phenylmethyl)pyrazine-2-carboxamide:
To a solution of 3-amino-6-phenylpyrazine carboxylic acid (0.10 g, 0.47 mmol) in dichloromethane (3 mL) were added 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDCI, 0.11 g, 0.56 mmol), 1-hydroxybenzotriazole (HOBT, 75 mg, 0.56 mmol), and N-methylmorpholine (NMM, 56 mg, 0.56 mmol) at room temperature. The reaction was stirred for 15 min before benzylamine (0.56 mmol) was added. The reaction mixture was allowed to stir overnight. The reaction was diluted with ethyl acetate (200 mL) and washed with water (50 mL), saturated aqueous sodium bicarbonate (40 mL) and aqueous hydrochloric acid (30 mL), and saturated aqueous sodium chloride (25 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated at reduced pressure to afford product (91 mg, 67% yield) as light yellow solid: 1H NMR (400 MHz, CDCl3): δ 8.62 (s, 1H), 8.38 (br s, 1H), 7.84 (dd, 2H), 7.45 (m, 2H), 7.38 (m, 6H), 4.70 (d, 2H); MS (EI) for C18H16N4O: 305 (MH+).

reactant | 3-amino-6-phenylpyrazine carboxylic acid | 0.47 mmol, 0.10 g | NC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)O | C11H9N3O2
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.56 mmol, 0.11 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.56 mmol, 75 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.56 mmol, 56 mg | CN1CCOCC1 | C5H11NO
reactant | benzylamine | 0.56 mmol | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-amino-6-phenyl-N-(phenylmethyl)pyrazine-2-carboxamide | 91 mg, 67% yield | NC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)NCC1=CC=CC=C1 | C18H16N4O
